US04200755
The methyl 2-hydroxy-5-[4-(2-oxo-1-benzimidazolinyl)piperidinoacetyl]benzoate is dissolved in one liter of methanol and cooled in an ice-methanol bath. Sodium borohydride (7.44 g) is added in portions over a period of 25 minutes. The mixture is stirred for approximately 30 minutes and poured onto one liter of ice-water. The mixture is acidified with 500 ml of a 10% acetic acid solution made basic by the addition of sodium bicarbonate and extracted with methylene chloride. The combined extracts are washed with water, dried over MgSO4 which is removed by filtration, and the filtrate evaporated in vacuo leaving a residue of 11.3 g, having a m.pt. of 211°-13° C. (dec.). The residue is dissolved in one equivalent of methanolic hydrogen chloride and precipitated from solution with diethyl ether. Recrystallization of the precipitate from methanol yields methyl 2-hydroxy-5-[1-hydroxy-2-[4-(2-oxo-1-benzimidazolinyl)piperidino]ethyl]benzoate hydrochloride having a m.pt. of 229°-30° C. (dec.).

reactant | methyl 2-hydroxy-5-[4-(2-oxo-1-benzimidazolinyl)piperidinoacetyl]benzoate | OC1=C(C(=O)OC)C=C(C=C1)C(CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)=O | C22H23N3O5
reactant | Sodium borohydride | 7.44 g | [BH4-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrogen chloride | one equivalent | Cl | ClH
solvent | methanol | one liter | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 2-hydroxy-5-[1-hydroxy-2-[4-(2-oxo-1-benzimidazolinyl)piperidino]ethyl]benzoate hydrochloride | Cl.OC1=C(C(=O)OC)C=C(C=C1)C(CN1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)O | InChI=1S/C22H25N3O5.ClH/c1-30-21(28)16-12-14(6-7-19(16)26)20(27)13-24-10-8-15(9-11-24)25-18-5-3-2-4-17(18)23-22(25)29;/h2-7,12,15,20,26-27H,8-11,13H2,1H3,(H,23,29);1H
